US08304036B2
3.65 g (11.0 mmol) of 2-(4-ethoxy-2,3-difluorophenyl)-5-propenylselenophene are hydrogenated in 35 ml of ethyl acetate, in the presence of Pd/C (5% of Pd) at atmospheric pressure and RT. The reaction soln. is filtered and concentrated to dryness, and the crude product is purified by column chromatography (SiO2, n-heptane:EtOAc=4:1→2:1). The further purification is carried out by recrystallisation from n-heptane. 2-(4-Ethoxy-2,3-difluorophenyl)-5-propylselenophene is obtained as a colourless solid (m.p. 64° C.).

reactant | 2-(4-ethoxy-2,3-difluorophenyl)-5-propenylselenophene | 11.0 mmol, 3.65 g | C(C)OC1=C(C(=C(C=C1)C=1[Se]C(=CC1)C=CC)F)F | C15H14F2OSe
solvent | ethyl acetate | 35 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | 2-(4-Ethoxy-2,3-difluorophenyl)-5-propylselenophene | C(C)OC1=C(C(=C(C=C1)C=1[Se]C(=CC1)CCC)F)F | C15H16F2OSe
